US08106043B2
tert-Butyl ethyl(2-(7-nitro-2H-benzo[b][1,4]oxazin-4(3H)-yl)ethyl)carbamate:
A yellow solution of tert-butyl ethyl(2-(7-nitro-2H-benzo[b][1,4]oxazin-4(3H)-yl)-2-oxoethyl)carbamate (8.7 g, 23.8 mmol) in anhydrous THF (50 mL) under positive argon pressure was treated with borane-THF complex (1M in THF, 47.6 mL, 47.6 mmol) to give an orange solution. The mixture was refluxed for 20 minutes. It was then cooled in an ice bath and treated dropwise with MeOH (100 mL). The solution stirred for half an hour at room temperature, and the reaction was then concentrated. The residue was subjected to flash chromatography on silica gel using 1:9 EtOAc:hexanes to give an orange solid (7.5 g, 91%). 1H-NMR (DMSO-d6) δ 7.72 (dd, J=2.7, 9.0 Hz, 1H), 7.49-7.47 (m, 1H), 6.85-6.83 (m, 1H), 4.18 (t, J=4.2 Hz, 2H), 3.59-3.53 (m, 2H), 3.37-3.36 (m, 2H), 3.20-3.18 (m, 2H), 1.47 (s, 2H), 1.30 (br s, 9H), 1.02 (t, J=6.9 Hz, 3H); ESI-MS (m/z, %): 374 (MNa+, 86), 352 (MH+, 7.8), 296 (100), 252 (87).

reactant | tert-butyl ethyl(2-(7-nitro-2H-benzo[b][1,4]oxazin-4(3H)-yl)-2-oxoethyl)carbamate | 23.8 mmol, 8.7 g | C(C)N(C(OC(C)(C)C)=O)CC(=O)N1C2=C(OCC1)C=C(C=C2)[N+](=O)[O-] | C17H23N3O6
reactant | borane THF | 47.6 mmol, 1M, 47.6 mL | B.C1CCOC1
reactant | MeOH | 100 mL | CO | CH4O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | tert-Butyl ethyl(2-(7-nitro-2H-benzo[b][1,4]oxazin-4(3H)-yl)ethyl)carbamate | 7.5 g, 91% | C(C)N(C(OC(C)(C)C)=O)CCN1C2=C(OCC1)C=C(C=C2)[N+](=O)[O-] | C17H25N3O5
